US06465658B2
1200 g of chlorobenzene and 272.4 g of imidazole were introduced into a flask fitted with water separator. 320 g of 50% strength by weight sodium hydroxide solution were added dropwise. Water was separated out until the distillate no longer separated into two phases. After 224 ml of water had been separated out in this way, 100 ml of chlorobenzene were removed by distillation, then 2 g of tributylhexadecylphosphonium bromide were added, and 202 g of phosgene were passed in at 80-85° C. over the course of one hour. When the addition was complete, the mixture was stirred at 90° C. for a further 1 hour while a vigorous stream of nitrogen was passed through the flask. The precipitate then present was filtered off at 80° C. and rinsed with 200 g of chlorobenzene at 90° C. The filtrate and the washing liquid were combined and cooled to 0° C. The precipitate which deposited was filtered off, rinsed with 200 g of dry chlorobenzene and dried at 60° C. under reduced pressure (50 mbar). 266 g of carbonyldiimidazole in the form of colorless crystals were obtained in a purity of 97.0%. This corresponded to a yield of 79.5% of theory.

reactant | chlorobenzene | 1200 g | ClC1=CC=CC=C1 | C6H5Cl
reactant | imidazole | 272.4 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | carbonyldiimidazole | 266 g, yield of 79.5% | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
